US07351778B2
1) Preparation of ethyl 2-methyl-3-oxo-valerate
The target product was prepared following the procedure as described in step 1) of Preparation Example 3, except for that ethyl propionylacetate was used to replace for ethyl acetoacetate. Yield 45%.

reactant | ethyl propionylacetate | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | ethyl 2-methyl-3-oxo-valerate | Yield 45% | CC(C(=O)OCC)C(CC)=O | C8H14O3
